US07446199B2
Step B: 5-Pyridin-4-yl-1H-pyrrolo[2,3-b]pyridine
To a solution of 5-bromo-1-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine (140 mg, 0.51 mmol) and 4-pyridinyl boronic acid (125 mg, 1.02 mmol) in DMF (4 mL) was added aqueous Na2CO3 (2M, 1.3 mL, 2.6 mmol). To this suspension was then added PdCl2(dppf) (20 mg, 0.025 mmol) under N2 atmosphere. The flask was then covered with septa, heated at 80° C. for 9 h, and poured into water. The precipitate was collected by filtration, washed with water, and redissolved in MeOH (10 mL). To this Methanol solution was added 6N NaOH solution (2 mL) and the resulting basic reaction mixture was heated at 50° C. for 3 h. After evaporating the MeOH, the aqueous residue was acidified with 6N HCl to pH=2. The precipitate was filtered off and washed with 2N HCl. The acidic filtrate was then neutralized with saturated NaHCO3 solution. The crude product was collected by filtration, washed with water, and dried on the pump for direct use (60 mg, 0.31 mmol). LC/MS: Rt 1.96 mins.; m/e 196.1 (M+H).

reactant | 5-bromo-1-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 0.51 mmol, 140 mg | BrC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C | C8H7BrN2O2S
reactant | 4-pyridinyl boronic acid | 1.02 mmol, 125 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2.6 mmol, 2M, 1.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.025 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Pyridin-4-yl-1H-pyrrolo[2,3-b]pyridine | N1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2 | C12H9N3
